US07851463B2
46.5 4-Isopropyl-N-[6-(1-propionyl-azetidin-3-yl)-pyridin-3-yl]-benzenesulfonamide
1-[3-(5-nitro-pyridin-2-yl)-azetidin-1-yl]-propan-1-one (340 mg, 1.44 mmol) was dissolved in ethanol (EtOH) (25 ml) and SnCl2.2H2O (1.63 g, 7.22 mmol) was added. The resulting mixture was refluxed for 8 h and the solvent next removed under vacuum. The raw material was dissolved in ethyl acetate and washed successively with 2N aqueous NaOH (×2) and water. The organic layer was dried (Na2SO4), filtered through a pad of celite and evaporated. Half of the crude material was then dissolved in CH2Cl2 (40 ml) and pyridine (115 μl, 1.41 mmol) followed by 4-isopropylbenzensulfonylchloride (190 μl, 1.05 mmol) were added dropwise. After stirring at room temperature overnight, the reaction mixture was diluted with CH2Cl2 and washed successively with 1N aqueous HCl, saturated aqueous NaHCO3 and water. The organic layer was dried (Na2SO4) and evaporated. The residue was chromatographied on silica gel (heptane:ethyl acetate, 1:3) to afford the title compound (150 mg, 54% for two steps) as a light yellow oil.

reactant | 1-[3-(5-nitro-pyridin-2-yl)-azetidin-1-yl]-propan-1-one | 1.44 mmol, 340 mg | [N+](=O)([O-])C=1C=CC(=NC1)C1CN(C1)C(CC)=O | C11H13N3O3
reactant | SnCl2.2H2O | 7.22 mmol, 1.63 g | O.O.Cl[Sn]Cl
reactant | pyridine | 1.41 mmol, 115 μl | N1=CC=CC=C1 | C5H5N
reactant | 4-isopropylbenzensulfonylchloride | 1.05 mmol, 190 μl | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Isopropyl-N-[6-(1-propionyl-azetidin-3-yl)-pyridin-3-yl]-benzenesulfonamide | 150 mg, 54% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)C1CN(C1)C(CC)=O | C20H25N3O3S
